US03944410
A solution of 2-(4'-methylthiophenyl)-4-trifluoromethyl-1,2,4-oxadiazolidine-3,5-dione (29.2 grams; 0.10 mol) in acetone (200 ml) is charged into a glass reaction vessel equipped with a mechanical stirrer. Hydrogen peroxide (16 grams; 0.14 mol) is then slowly added, with stirring, at room temperature. Stirring is continued for a period of about 72 hours after the addition is completed. After this time the solvent is removed from the reaction mixture by evaporation resulting in a solid product. The product is washed, recrystallized, and dried to yield 2-(4'-methylsulfinylphenyl)-4-trifluoromethyl-1,2,4-oxadiazolidine-3,5-dione.

reactant | 2-(4'-methylthiophenyl)-4-trifluoromethyl-1,2,4-oxadiazolidine-3,5-dione | 0.10 mol, 29.2 grams | CSC1=CC=C(C=C1)N1OC(N(C1=O)C(F)(F)F)=O | C10H7F3N2O3S
reactant | Hydrogen peroxide | 0.14 mol, 16 grams | OO | H2O2
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 2-(4'-methylsulfinylphenyl)-4-trifluoromethyl-1,2,4-oxadiazolidine-3,5-dione | CS(=O)C1=CC=C(C=C1)N1OC(N(C1=O)C(F)(F)F)=O | C10H7F3N2O4S
